data/specific_train_final.csv
"[H:14][CH:13]([CH:10]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9])[O:11][H:12])[O:15][O:16][H:17]>>[H:12][O:11][CH:10]([CH:13][O:15][O:16][H:17])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9][H:14] 9-14,9; 13,14-14,9; 13,14-13",Room Temperature,Propagation,abstraction
"CC(OC(C)(C)C)[O:20][O:21][O]>>CC([O:20])OC(C)(C)C.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:10]1C2CC(C2(C)C)CC1O.[O:20][O]>>CC1(C2CC1[C:10](C(C2)O)(C)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:11][C:7]1=[CH:6][CH2:5][CH:4]([CH2:9][CH:8]1[OH:10])[C:2]([CH3:3])([CH3:12])[O:1].[N:14](=[O:15])[O:13]>>[CH3:11][C:7]1=[CH:6][CH2:5][CH:4]([CH2:9][CH:8]1[OH:10])[C:2]([CH3:3])([CH3:12])[O:1].[N+:14](=[O:15])[O-:13] 14-13,Room Temperature,Propagation,ha resonance
"CCCCC(=O)O[O:20].O[O:10]>>CCCCC(=O)O[O:20][O:10]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:7][C:6]([CH3:8])([CH2:9][CH2:10][OH:11])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:7][C:6]([CH3:8])([CH2:9][CH2:10][OH:11])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"C([CH:10]Cl)O.[O:20][O]>>C([CH:10]([O:20][O])Cl)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C)(C)[O:20][O:21][O].[N+](=O)[O-]>>CCCC(C)(C)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(C)CO[O:20].[N+](=O)([O-])[O:10]>>CC(C)C(C)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO)(C(CO)OO)[O:21][OH:20].[He]>>[He].CC(CO)(C(CO)OO)[O:21].[OH:20] 20,21-20;20,21-21",Light,Initiation,homolyze
"CCCCC(C)[O:20].[N+:10](=O)[O-]>>CCCCC(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCC(C)(CO[O:10])O[N+](=O)[O-]>>[H:20][O:10]OCC(C)(CC)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:8][O:9][H:10].[He]>>[He].[H:10][O:9].[H:5][O:4][CH:3]([CH2:6][OH:7])[C:2]([CH3:1])([CH2:11][O:12][N+:13](=[O:15])[O-:14])[O:8] 8,9-8; 8,9-9",Light,Initiation,homolyze
"[H:7][C:6]([H:10])([CH:5]=[C:2]([CH3:1])[CH2:3][Cl:4])[O:8][O:9]>>[H:7][C:6]([H:10])[CH:5]=[C:2]([CH3:1])[CH2:3][Cl:4].[O:8][O:9] 6,8-6; 6,8-8",Room Temperature,Initiation,homolyze
"CCCCC[O:21][O:20][O].[N+](=O)[O-]>>CCCCC[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21](=O)C1(C(O1)/C(=C\C(=O)C)/C)C.[OH:10]>>[H:20][OH:10].C/C(=C/C(=O)C)/C1C(O1)(C)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C(CO)[O:20][O:21][O]>>CC(C)C(CO)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(O[O:20])Br)Br.[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])Br)Br 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC12C=CC(C(C1O)OO2)OO[O:20][N+:21](=O)[O-]>>CC12C=CC(C(C1O)OO2)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC1=C(C=C[CH:21]=[CH:20]1)C.[OH:10]>>CCC1=C(C=C[CH:21][CH:20]1[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CCOC(C)O[O:10]>>[H:20][O:10]OC(C)OCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCOC(C)O[O:20].O[O:10]>>CCOC(C)O[O:20][O:10]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](C)(C)OC(C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC(C)O[C:21](C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][CH2:2][O:3][CH:4]([CH2:6][OH:7])[O:5].[N+:9](=[O:8])[O-:10]>>[CH3:1][CH2:2][O:3][CH:4]([CH2:6][OH:7])[O:5][N+:9](=[O:8])[O-:10] 5-5,9; 9-5,9",Room Temperature,Termination,recombine
"CC(C)(C(C)(C)O[O:20])O[N+](=O)[O-].[N:10]=O>>CC(C)(C(C)(C)O[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2]1([CH:6]2[CH2:5][CH:4]1[C:10]([CH:8]([CH2:7]2)[OH:9])([CH3:11])[O:12][O:13][O:14][N+:15](=[O:17])[O-:16])[CH3:3]>>[CH3:1][C:2]1([CH:6]2[CH2:5][CH:4]1[C:10]([CH:8]([CH2:7]2)[OH:9])([CH3:11])[O:12][O:13][O:14])[CH3:3].[N+:15](=[O:17])[O-:16] 15,14-15; 15,14-14",Room Temperature,Initiation,homolyze
"CCC(C)(C)C[O:20][O:21]N=O>>CCC(C)(C)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCCCCC(CC)[O:20][O:21][O]>>CCCCCCCC(CC)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC1=CC=C[C:21](=[CH:20]1)C.[OH:10]>>CCC1=CC=C[C:21]([CH:20]1[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1=CCC(CC1O)[C:10](C)C.[O:20][O]>>CC1=CCC(CC1O)[C:10](C)(C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(OCC(C)O)O[O:20].[N+](=O)([O-])[O:10]>>CCCC(OCC(C)O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
